US08492405B2
To a solution of ethyl 4-nitro-1H-pyrrol-2-carboxylate (10 g) in N,N-dimethylformamide (100 mL) was slowly added sodium hydride (60%, oily, 2.4 g) at 0° C., and the mixture was stirred at room temperature for 30 min. Ethyl iodide (4.8 mL) was slowly added to the reaction mixture, and the mixture was stirred at room temperature overnight. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. A mixture of the residue and 10% palladium-carbon (50% containing water, 1.0 g) in tetrahydrofuran (20 mL)-ethanol (20 mL) was stirred at room temperature for 12 hr under a hydrogen atmosphere. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography to give ethyl 4- amino-1-ethyl-1H-pyrrole-2-carboxylate (7.1 g, yield 78%) as a brown oil from a fraction eluted with ethyl acetate-hexane (1:3, volume ratio).

reactant | ethyl 4-nitro-1H-pyrrol-2-carboxylate | 10 g | [N+](=O)([O-])C=1C=C(NC1)C(=O)OCC | C7H8N2O4
reactant | sodium hydride | 2.4 g | [H-].[Na+]
reactant | Ethyl iodide | 4.8 mL | C(C)I | C2H5I
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | ethyl 4- amino-1-ethyl-1H-pyrrole-2-carboxylate | 7.1 g, yield 78% | NC=1C=C(N(C1)CC)C(=O)OCC | C9H14N2O2
